US07902252B2
2.94. Synthesis of 4-(3-acetylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (76)
The title compound was synthesized from methyl 4-(3-acetylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.006 g, 0.020 mmol) and lithium hydroxide (0.010 g, 0.24 mmol in 0.5 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (1 mL) was used. The resulting product was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-50% EtOAc/heptane affording the title compound: 0.5 mg, 9% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.56-2.61 (m, 7H), 2.79-2.91 (m, 2H), 6.29 (s, 1H), 7.39-7.44 (m, 1H), 7.44-7.46 (m, 1H), 7.78 (s, 1H), 7.82-7.86 (m, 1H); LCMS-MS (ESI−) 282.2 (M−H); HPLC (UV=100%).

reactant | methyl 4-(3-acetylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.020 mmol, 0.006 g | C(C)(=O)C=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C18H19NO3
reactant | lithium hydroxide | 0.24 mmol, 0.5 mL, 0.010 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-(3-acetylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 9% yield | C(C)(=O)C=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C17H17NO3
